US06831106B1
b) Methyl 3′-[3,4-bis-(1-phenylmethanoyloxymethyl)benzyloxy]-3-methylbiphenyl-4-carboxylate
In a manner similar to that of Example 1(i), by reaction of 1.5 g (6.2 mmol) of methyl 3′-hydroxy-3-methylbiphenyl-4-carboxylate with 3 g (6.88 mmol) of 3,4-bis(benzoyloxymethyl)benzyl bromide and 900 mg (6.4 mmol) of potassium carbonate, the desired product is obtained in the form of a yellow oil (m=3.69 g; Y=99%).

reactant | methyl 3′-hydroxy-3-methylbiphenyl-4-carboxylate | 6.2 mmol, 1.5 g | OC=1C=C(C=CC1)C1=CC(=C(C=C1)C(=O)OC)C | C15H14O3
reactant | 3,4-bis(benzoyloxymethyl)benzyl bromide | 6.88 mmol, 3 g | C(C1=CC=CC=C1)(=O)OCC=1C=C(CBr)C=CC1COC(C1=CC=CC=C1)=O | C23H19BrO4
reactant | potassium carbonate | 6.4 mmol, 900 mg | C([O-])([O-])=O.[K+].[K+]
product | Methyl 3′-[3,4-bis-(1-phenylmethanoyloxymethyl)benzyloxy]-3-methylbiphenyl-4-carboxylate | C1(=CC=CC=C1)C(=O)OCC=1C=C(COC=2C=C(C=CC2)C2=CC(=C(C=C2)C(=O)OC)C)C=CC1COC(=O)C1=CC=CC=C1 | C38H32O7
